US04360511
o-Iodobenzyl chloride was prepared from o-iodobenzyl alcohol using thionyl chloride according to the procedure described by Brooks et al, Org. Syn. Coll. Vol. 3, p. 698 (1955). The crude product was distilled at reduced pressure to yield a clear, colorless liquid having a bp of 143°/4 mm Hg.

reactant | o-iodobenzyl alcohol | IC1=C(CO)C=CC=C1 | C7H7IO
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | o-Iodobenzyl chloride | IC1=C(CCl)C=CC=C1 | C7H6ClI
